US09079866B2
4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-N,N-diethyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 444 using 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine and 2-bromo-N,N-diethylbenzenesulfonamide. MS (ESI): mass calcd. for C23H24FN3O3S, 441.15; m/z found, 442.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.03-8.00 (m, 1H), 7.82 (d, J=1.0, 1H), 7.73-7.65 (m, 2H), 7.62-7.55 (m, 2H), 7.40-7.36 (m, 1H), 7.31 (s, 1H), 7.30-7.28 (m, 1H), 4.39-4.35 (m, 2H), 3.74-3.70 (m, 2H), 2.99 (q, J=7.1, 4H), 1.01 (t, J=7.1, 6H).

reactant | 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | FC1=C(C=CC(=C1)C1OC(C(O1)(C)C)(C)C)C1=CC=2OCCNC2N=C1 | C20H23FN2O3
reactant | 2-bromo-N,N-diethylbenzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N(CC)CC | C10H14BrNO2S
product | 4′-(3,4-Dihydro-2H-pyrido[3,2-b][1,4]oxazin-7-yl)-N,N-diethyl-3′-fluorobiphenyl-2-sulfonamide | O1C2=C(NCC1)N=CC(=C2)C2=C(C=C(C=C2)C=2C(=CC=CC2)S(=O)(=O)N(CC)CC)F | C23H24FN3O3S
